US07531542B2
2-(4-tert-butylphenyl)-4-piperazin-1-yl-1,3-benzothiazole:
4-tert-butyl-N-(2,6-dibromophenyl)benzenecarbothioamide prepared as in Example 19 (0.200 g, 0.468 mmol) was dissolved in dioxane (4 mL) and treated with Pd2 dba3 (4.3 mg, 0.0468 mmol), o-biphenyl(tBu)2P (15.4 mg, 0.0515 mmol) and Cs2CO3 (0.229 g, 0.702 mmol). The mixture was heated to 80° C. for 2 h until the starting material was consumed and cooled. To the reaction mixture was then added toluene (2 mL), Pd2 dba3 (4.3 mg, 0.0468 mmol), o-biphenyl(tBu)2P (15.4 mg, 0.0515 mmol), sodium tert-butoxide (0.090 g, 0.936 mmol) and piperazine (0.403 g, 4.68 mmol). The mixture was heated at 80° C. for 1 h and filtered through celite. The filtrate was diluted with dichloromethane, washed with water and saturated sodium chloride, and concentrated. The crude material was purified by reverse-phase HPLC to yield 69.5 mg (42%) of the product. MS (ES) m/z 352.1; HPLC Method B, purity 100% at 210-370 nm, 9.8 min.; 99.4% at 310 nm, 9.8 min.; HRMS: calcd for C21H25N3S+H+, 352.18419; found (ESI, [M+H]+), 352.1841.

reactant | 4-tert-butyl-N-(2,6-dibromophenyl)benzenecarbothioamide | C(C)(C)(C)C1=CC=C(C=C1)C(NC1=C(C=CC=C1Br)Br)=S | C17H17Br2NS
reactant | Cs2CO3 | 0.702 mmol, 0.229 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | sodium tert-butoxide | 0.936 mmol, 0.090 g | CC(C)([O-])C.[Na+]
reactant | piperazine | 4.68 mmol, 0.403 g | N1CCNCC1 | C4H10N2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2 dba3 | 0.0468 mmol, 4.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd2 dba3 | 0.0468 mmol, 4.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-tert-butylphenyl)-4-piperazin-1-yl-1,3-benzothiazole | 69.5 mg, 42% | C(C)(C)(C)C1=CC=C(C=C1)C=1SC2=C(N1)C(=CC=C2)N2CCNCC2 | C21H25N3S
